* B2 include-only variant for LTspice integration harness
* Schematic-backed assumptions from the current KiCad design:
* - Battery-side fuse path uses F2 in series with the charger output
* - Battery boundary uses a 4S LiFePO4-like OCV/ESR branch around the intended 14.2V charge target

.param B2_VCHG=14.2
.param B2_IHEAT_LIMIT=12
.param B2_USE_INTERNAL_CHG=1
.param B2_R_FEED_ON=80m
.param B2_R_FEED_OFF=1G
.param B2_RFUSE=20m
.param B2_R_TRACE=10m

.param B2_VBAT_OCV=12.8
.param B2_RBAT_ESR=120m
.param B2_RBAT_POL=0.35
.param B2_CBAT_POL=2
.param B2_RPACK_LEAK=800

I_CHG_INT CHG_SRC PWR_NEG DC {B2_IHEAT_LIMIT}
V_CHG_PROBE CHG_SRC CHG_FEED_NODE DC 0
R_CHG_FEED CHG_FEED_NODE CHG_OUT_POS {B2_R_FEED_ON + (B2_R_FEED_OFF-B2_R_FEED_ON)*(1-B2_USE_INTERNAL_CHG)}
R_CHG_SRC_REF CHG_SRC PWR_NEG 1Meg

R_F2 CHG_OUT_POS BAT_BUS_POS {B2_RFUSE + B2_R_TRACE}

R_GNDREF_B2 PWR_NEG 0 1u
V_BAT_OCV BAT_OCV PWR_NEG DC {B2_VBAT_OCV}
R_BAT_ESR BAT_BUS_POS BAT_POL {B2_RBAT_ESR}
R_BAT_POL BAT_POL BAT_OCV {B2_RBAT_POL}
C_BAT_POL BAT_POL BAT_OCV {B2_CBAT_POL}

R_PACK_LEAK BAT_BUS_POS PWR_NEG {B2_RPACK_LEAK}