* B5 - Measurement front ends for ADC-facing nets
* LTspice export from 05_block_b5_measurement_frontend.cir

.param VIN=36

* Ensure global reference node is tied to LTspice node 0
R_GNDREF_B5 PWR_NEG 0 1u

V_PV PV_IN_POS_FUSED PWR_NEG DC {VIN}

* Placeholder divider and filter for SENSE_PV_V
R_TOP_PV PV_IN_POS_FUSED SENSE_PV_V 180k
R_BOT_PV SENSE_PV_V PWR_NEG 10k
C_FILT_PV SENSE_PV_V PWR_NEG 10n

* Placeholder load representing ADC input leakage/sample path
R_ADC_PV SENSE_PV_V PWR_NEG 1MEG

.op
.dc V_PV 8 60 1
.print dc V(SENSE_PV_V)

.end