* B1 - LM51772-style 4-switch power-stage abstraction (first pass)
* LTspice export from 01_block_b1_power_stage.cir

.param B1_VIN=24
.param B1_USE_INTERNAL_SRC=1
.param B1_R_FEED_ON=1m
.param B1_R_FEED_OFF=1G
.param B1_FSW=100k
.param B1_DUTY=0.61
.param B1_DEAD=40n
.param B1_LVAL=1u
.param B1_L_DCR=5m
.param B1_RSHUNT=1m
.param B1_COUT_EQ=220u
.param B1_COUT_ESR=25m
.param B1_RLOAD=0.9

* Optional local source for stand-alone runs.
R_GNDREF_B1 PWR_NEG 0 1u
V_IN_INT VIN_SRC PWR_NEG DC {B1_VIN}
R_IN_FEED VIN_SRC PV_IN_POS {B1_R_FEED_ON + (B1_R_FEED_OFF-B1_R_FEED_ON)*(1-B1_USE_INTERNAL_SRC)}

* Left bridge (PV side) gate commands, complementary with dead-time
V_HO1 HO1 PWR_NEG PULSE(0 10 0 20n 20n {(B1_DUTY/B1_FSW)-B1_DEAD} {1/B1_FSW})
V_LO1 LO1 PWR_NEG PULSE(10 0 0 20n 20n {(B1_DUTY/B1_FSW)-B1_DEAD} {1/B1_FSW})

* Right bridge in buck-oriented operating mode: HS held ON, LS OFF
V_HO2 HO2 PWR_NEG DC 10
V_LO2 LO2 PWR_NEG DC 0

* Switch models for M1/M2/M4/M3 abstraction
.model SWNMOS SW(RON=20m ROFF=100MEG VT=4 VH=0.3)
.model DBODY D(IS=1e-12 RS=5m CJO=250p TT=40n)

* M1 equivalent: PV_IN_POS -> SW_1
S_HS1 PV_IN_POS SW_1 HO1 PWR_NEG SWNMOS
D_HS1 SW_1 PV_IN_POS DBODY

* M2 equivalent: SW_1 -> PWR_NEG
S_LS1 SW_1 PWR_NEG LO1 PWR_NEG SWNMOS
D_LS1 PWR_NEG SW_1 DBODY

* R22 shunt and L2 inductor path between switching nodes
R22 SW_1 CSB_2 {B1_RSHUNT}
L2 CSB_2 L2_INT {B1_LVAL}
R_L2 L2_INT SW_2 {B1_L_DCR}

* M4 equivalent: V_out -> SW_2 (high-side of right bridge)
S_HS2 V_out SW_2 HO2 PWR_NEG SWNMOS
D_HS2 SW_2 V_out DBODY

* M3 equivalent: SW_2 -> PWR_NEG
S_LS2 SW_2 PWR_NEG LO2 PWR_NEG SWNMOS
D_LS2 PWR_NEG SW_2 DBODY

* Output network and boundary handoff
R_COUT V_out VOUT_CAP {B1_COUT_ESR}
COUT VOUT_CAP PWR_NEG {B1_COUT_EQ}
RLOAD V_out PWR_NEG {B1_RLOAD}
R_OUTLINK V_out CHG_OUT_POS 5m
C_CHG CHG_OUT_POS PWR_NEG 22u

* Numerical damping helpers for switched-node convergence
R_LEAK_SW1 SW_1 PWR_NEG 50MEG
R_LEAK_SW2 SW_2 PWR_NEG 50MEG
R_LEAK_VOUT V_out PWR_NEG 50MEG
C_SW1 SW_1 PWR_NEG 100p
C_SW2 SW_2 PWR_NEG 100p

* PV-side equivalent decoupling and VIN-FB divider observability
CIN_EQ PV_IN_POS PWR_NEG 50u
R18 PV_IN_POS V_in_FB 66.5k
R17 V_in_FB PWR_NEG 5.62k

.options method=gear reltol=1e-4

.tran 50n 3m
.meas tran Vout_avg AVG V(V_out) FROM=1.5m TO=3m
.meas tran Iin_avg AVG I(V_IN_INT) FROM=1.5m TO=3m
.print tran V(V_out) V(CHG_OUT_POS) V(SW_1) V(SW_2)

.end