* B1 include-only variant for LTspice integration harness
* Schematic-backed assumptions from the current KiCad design:
* - Main power-stage inductor uses L2 (1uH, ~0.42mΩ DCR)
* - Output capacitor bank is represented with a 220uF-equivalent bulk branch
* - MOSFET stage is abstracted at the plant level rather than modeled as a full LM51772 switch gate network
* - Duty cycle is treated as the control knob that the LM51772 would adjust to regulate output voltage

.param B1_VIN=36
.param B1_USE_INTERNAL_SRC=0
.param B1_R_FEED_ON=1m
.param B1_R_FEED_OFF=1G
.param B1_FSW=100k
.param B1_DUTY=0.72
.param B1_DEAD=20n
.param B1_LVAL=1u
.param B1_L_DCR=0.42m
.param B1_RSHUNT=0.35m
.param B1_RPWR_PATH=20m
.param B1_ROUTLINK=20m
.param B1_RTRACE=10m
.param B1_RDS_ON_ROOM=20m
.param B1_RDS_ON_HOT=40m
.param B1_RDS_ON_TC=0.004
.param B1_DIODE_RS=20m
.param B1_DIODE_TC=0.004
.param B1_COUT_EQ=220u
.param B1_COUT_ESR=20m
.param B1_RLOAD=0.7

R_GNDREF_B1 PWR_NEG 0 1u
V_IN_INT VIN_SRC PWR_NEG DC {B1_VIN}
R_IN_FEED VIN_SRC PV_IN_POS {B1_R_FEED_ON + (B1_R_FEED_OFF-B1_R_FEED_ON)*(1-B1_USE_INTERNAL_SRC)}

V_HO1 HO1 PWR_NEG PULSE(0 10 0 20n 20n {(B1_DUTY/B1_FSW)-B1_DEAD} {1/B1_FSW})
V_LO1 LO1 PWR_NEG PULSE(10 0 0 20n 20n {(B1_DUTY/B1_FSW)-B1_DEAD} {1/B1_FSW})
V_HO2 HO2 PWR_NEG DC 10
V_LO2 LO2 PWR_NEG DC 0

.model SWNMOS SW(RON={B1_RDS_ON_HOT*(1+B1_RDS_ON_TC*(temp-25))} ROFF=100MEG VT=4 VH=0.3)
.model DBODY D(IS=1e-12 RS={B1_DIODE_RS*(1+B1_DIODE_TC*(temp-25))} CJO=250p TT=40n)

S_HS1 PV_IN_POS SW_1 HO1 PWR_NEG SWNMOS
D_HS1 SW_1 PV_IN_POS DBODY
S_LS1 SW_1 PWR_NEG LO1 PWR_NEG SWNMOS
D_LS1 PWR_NEG SW_1 DBODY

R22 SW_1 CSB_2 {B1_RSHUNT}
L2 CSB_2 L2_INT {B1_LVAL}
R_L2 L2_INT SW_2 {B1_L_DCR}

S_HS2 V_out SW_2 HO2 PWR_NEG SWNMOS
D_HS2 SW_2 V_out DBODY
S_LS2 SW_2 PWR_NEG LO2 PWR_NEG SWNMOS
D_LS2 PWR_NEG SW_2 DBODY

R_COUT V_out VOUT_CAP {B1_COUT_ESR}
COUT VOUT_CAP PWR_NEG {B1_COUT_EQ}
RLOAD V_out PWR_NEG {B1_RLOAD}
R_PWR_PATH V_out CHG_OUT_POS {B1_RPWR_PATH + B1_RTRACE + B1_ROUTLINK}
C_CHG CHG_OUT_POS PWR_NEG 22u

R_LEAK_SW1 SW_1 PWR_NEG 50MEG
R_LEAK_SW2 SW_2 PWR_NEG 50MEG
R_LEAK_VOUT V_out PWR_NEG 50MEG
C_SW1 SW_1 PWR_NEG 100p
C_SW2 SW_2 PWR_NEG 100p

CIN_EQ PV_IN_POS PWR_NEG 50u
R18 PV_IN_POS V_in_FB 66.5k
R17 V_in_FB PWR_NEG 5.62k

.options method=gear reltol=1e-4