* B0 - PV input, fuse, TVS, reverse path, and gate-control slice
* LTspice export from 00_block_b0_pv_input.cir

.param VIN=24
.param VCTRL=0
.param RFUSE=15m
.param RPATH=5m
.param RLOAD=30

* Ensure global reference node is tied to LTspice node 0
R_GNDREF_B0 PWR_NEG 0 1u

* PV boundary source
V_PV PV_IN_POS_RAW PWR_NEG DC {VIN}

* MCU gate-control surrogate (V_in_ON net in hardware)
V_CTRL V_in_ON PWR_NEG DC {VCTRL}

* F1 first-pass model
R_F1 PV_IN_POS_RAW PV_IN_POS_FUSED {RFUSE}

* D2 TVS at fused PV rail (SMBJ60CA placeholder model)
D_TVS PV_IN_POS_FUSED PWR_NEG DTVS60

* Q4 PMOS pass element: S=/PV_IN_POS_FUSED, D=PV_IN_POS, G=Q4_G
M_Q4 PV_IN_POS Q4_G PV_IN_POS_FUSED PV_IN_POS_FUSED PMOS_PASS
R_Q4PATH PV_IN_POS_FUSED PV_IN_POS {RPATH}

* D1 zener clamp between Q4 gate and fused source rail
* This limits |Vgs(Q4)| during pull-down events.
D_ZCLAMP Q4_G PV_IN_POS_FUSED DZ12

* Q2 gate-pull network as implemented in schematic
R40 Q2_G PWR_NEG 100k
R41 V_in_ON Q2_G 10
R43 PV_IN_POS_FUSED Q2_D 100k
R42 Q2_D Q4_G 10
M_Q2 Q2_D Q2_G PWR_NEG PWR_NEG NMOS_DRV

* Sense-divider branch present on fused node
R35 PV_IN_POS_FUSED V_in_ADC 180k
R36 V_in_ADC PWR_NEG 10k

* Downstream loading placeholder on PV_IN_POS
R_LOAD PV_IN_POS PWR_NEG {RLOAD}

* Device models (first-pass behavioral approximations)
.model NMOS_DRV NMOS (VTO=1.6 KP=0.8m RD=0.2 RS=0.2)
.model PMOS_PASS PMOS (VTO=-2.5 KP=2m RD=0.01 RS=0.01)
.model DZ12 D (IS=1e-14 BV=12 IBV=1m CJO=100p)
.model DTVS60 D (IS=1e-14 BV=73.7 IBV=1m RS=0.05 CJO=700p)

.op
.print V(PV_IN_POS_RAW) V(PV_IN_POS_FUSED) V(PV_IN_POS)
.print V(Q4_G) V(PV_IN_POS_FUSED,Q4_G)
.print V(V_in_ADC)

.dc V_PV 8 60 1
.print V(PV_IN_POS) V(PV_IN_POS_FUSED,Q4_G)

.end