* Startup-current experiment for the Rev 0 LM51772-style power stage.
* This is a behavioral envelope model, not an LM51772 vendor macromodel.
* It tests whether a 200 mA source can build inductor current during soft-start.

.param VIN=6
.param FSW=610k
.param TSS=100u
.param DUTY_START=0.05
.param DUTY_END=0.55
.param LVAL=1u
.param L_DCR=5m
.param RSOURCE=30
.param COUT=220u
.param COUT_ESR=25m
.param RLOAD=1k
.param GATE_HIGH=10
.param DEAD=40n

* A 30 ohm source resistance limits the ideal 6 V source to about 200 mA
* at a hard short. This approximates the bench supply current ceiling.
V_PV PV_SOURCE PWR_NEG DC {VIN}
R_SOURCE PV_SOURCE PV_IN_POS {RSOURCE}
CIN PV_IN_POS PWR_NEG 50u

* Four-switch bridge envelope. M1 is pulse-controlled; M2 is complementary.
* The opposite leg is held in the buck-boost transfer state for this experiment.
B_HO1 HO1 PWR_NEG V={if(mod(time, 1/FSW) < (1/FSW)*(DUTY_START + (DUTY_END-DUTY_START)*min(time/TSS, 1)), GATE_HIGH, 0)}
B_LO1 LO1 PWR_NEG V={if(mod(time, 1/FSW) < (1/FSW)*(1 - DUTY_START - (DUTY_END-DUTY_START)*min(time/TSS, 1) - DEAD*FSW), GATE_HIGH, 0)}
V_HO2 HO2 PWR_NEG DC {GATE_HIGH}
V_LO2 LO2 PWR_NEG DC 0

.model SWNMOS SW(RON=20m ROFF=100MEG VT=4 VH=0.3)
.model DBODY D(IS=1e-12 RS=5m CJO=250p TT=40n)

S_HS1 PV_IN_POS SW_1 HO1 PWR_NEG SWNMOS
D_HS1 SW_1 PV_IN_POS DBODY
S_LS1 SW_1 PWR_NEG LO1 PWR_NEG SWNMOS
D_LS1 PWR_NEG SW_1 DBODY

R22 SW_1 CSB_2 1m
L2 CSB_2 L2_INT {LVAL}
R_L2 L2_INT SW_2 {L_DCR}

S_HS2 V_OUT SW_2 HO2 PWR_NEG SWNMOS
D_HS2 SW_2 V_OUT DBODY
S_LS2 SW_2 PWR_NEG LO2 PWR_NEG SWNMOS
D_LS2 PWR_NEG SW_2 DBODY

R_COUT V_OUT VOUT_CAP {COUT_ESR}
C_OUT VOUT_CAP PWR_NEG {COUT}
R_LOAD V_OUT PWR_NEG {RLOAD}
R_OUTLINK V_OUT CHG_OUT_POS 5m
C_CHG CHG_OUT_POS PWR_NEG 22u

R_LEAK_SW1 SW_1 PWR_NEG 50MEG
R_LEAK_SW2 SW_2 PWR_NEG 50MEG
R_LEAK_VOUT V_OUT PWR_NEG 50MEG
C_SW1 SW_1 PWR_NEG 100p
C_SW2 SW_2 PWR_NEG 100p

.options method=gear reltol=1e-4 maxord=2

.control
set filetype=ascii
tran 20n 2m
set wr_singlescale
set wr_vecnames
wrdata waveforms/03_startup_current_limit_tran.csv time v(PV_IN_POS) i(V_PV) i(L2) v(L2_INT) v(V_OUT) v(CHG_OUT_POS) v(SW_1) v(SW_2) v(HO1) v(LO1)
meas tran VOUT_FINAL FIND v(CHG_OUT_POS) AT=2m
meas tran IIN_PEAK MAX abs(i(V_PV)) FROM=0 TO=2m
meas tran IL_PEAK MAX abs(i(L2)) FROM=0 TO=2m
meas tran IIN_AVG AVG abs(i(V_PV)) FROM=1.5m TO=2m
meas tran IL_AVG AVG abs(i(L2)) FROM=1.5m TO=2m
print v(CHG_OUT_POS) v(PV_IN_POS) i(V_PV) i(L2)
.endc

.end